US06150373
A mixture of 4 g (17.2 mmol) of ethyl 4-chloro-2-methylthiopyrimidine-5-carboxylate and 5 g (54 mmol) of aniline in 40 ml of dioxan was stirred at room temperature for 24 hours. The mixture was then evaporated and 100 ml of ethyl acetate and 50 ml of 2M aqueous hydrochloric acid were added to the residue. The phases were separated and the organic phase was washed with 50 ml of aqueous hydrochloric acid, dried over magnesium sulfate, filtered and evaporated. The resulting solid was purified by crystallisation from aqueous ethanol to give 3.5 g (64%) of ethyl 4-phenylamino-2-methylthiopyrimidine-5-carboxylate as a white solid.

reactant | ethyl 4-chloro-2-methylthiopyrimidine-5-carboxylate | 17.2 mmol, 4 g | ClC1=NC(=NC=C1C(=S)OCC)C | C8H9ClN2OS
reactant | aniline | 54 mmol, 5 g | NC1=CC=CC=C1 | C6H7N
solvent | dioxan | 40 ml | O1CCOCC1 | C4H8O2
product | ethyl 4-phenylamino-2-methylthiopyrimidine-5-carboxylate | 3.5 g, 64% | C1(=CC=CC=C1)NC1=NC(=NC=C1C(=S)OCC)C | C14H15N3OS
